Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Ancef / Egg-Pro / vancomycin
 
Attending: ___.
 
Chief Complaint:
___ man with ___ ESRD s/p LRKT with graft failure with 
HD MWF on ___ HD through his right thigh 
graft presents for evaluation of progression enlargement of 
right thigh AV graft. The graft reportedly has always been 
difficult to access, but does not have history of thrombosis, 
pseudo aneurysm, or aneurysm. In the last ___ weeks has noticed 
significant enlargement on the anterior portion of the AV graft. 
He said that it is approximately doubled in size in the last 2 
days and has noted some changes in the color or the overlying 
skin. No warmth, redness, or bleeding. He was sent to the ED for 
further evaluation. 

In the ED, initial VS were:98.1 70 183/100 14 98% RA. 

Exam notable for:-Palpable thrill throughout the AV graft-1 cm 1 
cm area that is significantly extended beyond otherportions of 
the AV graft with overlying skin is blanchable. No associated 
redness or purulence

ECG:Labs showed: hgb 12.1, K4.7, cr 10.9

Imaging showed:1.3 x 0.6 x 1.2 cm pseudoaneurysm arising from 
the anterioraspect of the right thigh AV graft.

___: Will see in AM; please keep NPO; d/w Dr. ___ 
attending

___ sx: Patient discussed with Dr. ___. Recommend ___ 
consult for fistulogram; Renal c/s for dialysis (missed 
yesterday). Can continue to access this current fistula as long 
as to AVOID area of the pseudoaneurysm.

Patient received: Tylenol

Transfer VS were: 98.1 70 183/100 14 98% RA. On arrival to the 
floor, patient reports 1 week of increasing size of spot on R 
femoral AVF that has been in use since ___ of the graft 
has been difficult to access, so the spot that is not enlarged 
has had more trauma from frequent access during HD. Some more 
bleeding from the accessing of fistula over last week as well. 
Otherwise denied other symptoms. Of note he tells me that HD was 
held last ___

REVIEW OF SYSTEMS: 10 point ROS reviewed and negative except as 
per HPI
 
Major Surgical or Invasive Procedure:
1. Balloon angioplasty for intra-graft stenosis at venous end of 
AVF. (___)
2. Covered stent graft placement for pseudoaneurysm at arterial 
end AVF. (___)

 
History of Present Illness:
___ man with PMH ESRD s/p LRKT with graft failure with 
HD
MWF on ___ HD through his right thigh graft
presents for evaluation of progression enlargement of right 
thigh
AV graft. 

The graft reportedly has always been difficult to access, but
does not have history of thrombosis, pseudoaneurysm, or 
aneurysm.
In the last ___ weeks has noticed significant enlargement on the
anterior portion of the AV graft. He said that it is
approximately doubled in size in the last 2 days and has noted
some chenges in the color or the overlying skin. No warmth,
redness, or bleeding. He was sent to the ED for further
evaluation.

In the ED, initial VS were:98.1 70 183/100 14 98% RA 
Exam notable for:
-Palpable thrill throughout the AV graft
-1 cm 1 cm area that is significantly extended beyond other
portions of the AV graft with overlying skin is blanchable.
-No associated redness or purulence

ECG:
Labs showed: hgb 12.1, K4.7, cr 10.9

Imaging showed:
1.3 x 0.6 x 1.2 cm pseudoaneurysm arising from the anterior
aspect of the right thigh AV graft.

Consults:
___: Will see in AM; please keep NPO; d/w Dr. ___ attending

___ sx: Patient discussed with Dr. ___. Recommend ___
consult for fistulogram; Renal c/s for dialysis (missed
yesterday). Can continue to access this current fistula as long
as to AVOID area of the pseudoaneurysm. Admission to medicine.
Thanks ___ ___ 

Renal HD..

Patient received: Tylenol

Transfer VS were: 98.1 70 183/100 14 98% RA 
 

On arrival to the floor, patient reports 1 week of increasing
size of spot on R femoral AVF that has been in use since ___.
Part of the graft has been difficult to access, so the spot that
is not enlarged has had more trauma from frequent access during
HD. Some more bleeding from the accessing of fistula over last
week as well. Otherwise denied other symptoms. 

Of note he tells me that HD was held last ___

REVIEW OF SYSTEMS: 10 point ROS reviewed and negative except as
per HPI

 
Past Medical History:
HTN 
Sarcoidosis
ESRD
multiple access procedures
as above, a pericardiocentesis, and a kidney transplant in ___,
which failed in ___.
 
Social History:
___
Family History:
The patient's father died at the age of ___. His mother died at
the age of ___ from emphysema.  The patient has three brothers,
ages ___, ___ and ___ who all are reportedly healthy also has
___ sister who is reportedly healthy as well.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VS: 97.6PO 175 / ___ 98 RA 
GENERAL: NAD
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva,
MMM
NECK: supple, no LAD, no JVD
HEART: RRR, S1/S2, ___ SEM at base. No gallops, or rubs
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
ABDOMEN: nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: no cyanosis, clubbing, or edema. R femoral fistula
with ___ sm diameter outpouching in area of imaged
pseudo-aneurysm. Loud thrill/ 
PULSES: 2+ DP pulses bilaterally
NEURO: A&Ox3, moving all 4 extremities with purpose
SKIN: warm and well perfused, no excoriations or lesions, no
rashes

DISCHARGE PHYSICAL EXAM:
========================
24 HR Data (last updated ___ @ 1000)
Temp: 98.7 (Tm 98.7), BP: 162/87 (162-184/87-103), HR: 79
(70-81), RR: 18, O2 sat: 98% (98-99), O2 delivery: RA  
PHYSICAL EXAM:
GENERAL: NAD
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva,
MMM
NECK: supple, no LAD, no JVD
HEART: RRR, S1/S2, ___ holosystolic murmur at base. No gallops,
or rubs.
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
ABDOMEN: nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: no cyanosis, clubbing, or edema. R femoral fistula
with ___ sm diameter outpouching in area of imaged
pseudo-aneurysm. Loud thrill 
PULSES: 2+ DP pulses bilaterally
NEURO: A&Ox3, moving all 4 extremities with purpose
SKIN: warm and well perfused, no excoriations or lesions, no
rashes
 
Pertinent Results:
ADMISSION LABS:
===============
___ 07:48PM   ___ PTT-31.6 ___
___ 07:48PM   PLT COUNT-149*
___ 07:48PM   NEUTS-68.3 LYMPHS-14.6* MONOS-13.5* EOS-2.8 
BASOS-0.4 IM ___ AbsNeut-3.17 AbsLymp-0.68* AbsMono-0.63 
AbsEos-0.13 AbsBaso-0.02
___ 07:48PM   WBC-4.7 RBC-4.20* HGB-12.1* HCT-38.3* MCV-91 
MCH-28.8 MCHC-31.6* RDW-18.0* RDWSD-60.0*
___ 07:48PM   estGFR-Using this
___ 07:48PM   GLUCOSE-104* UREA N-39* CREAT-10.9* 
SODIUM-139 POTASSIUM-7.0* CHLORIDE-97 TOTAL CO2-26 ANION GAP-16
___ 08:52PM   K+-4.7

DISCHARGE LABS:
================
___ 06:00AM BLOOD WBC-4.1 RBC-3.91* Hgb-11.5* Hct-35.4* 
MCV-91 MCH-29.4 MCHC-32.5 RDW-17.9* RDWSD-59.7* Plt ___
___ 06:00AM BLOOD Glucose-62* UreaN-45* Creat-11.9* Na-142 
K-4.9 Cl-97 HCO3-27 AnGap-18
___ 06:00AM BLOOD Calcium-9.6 Phos-4.3 Mg-2.7*

MICROBIOLOGY:
=============
None

IMAGING:
========
AVF U/S (___):
1.3 x 0.6 x 1.2 cm pseudoaneurysm arising from the anterior 
aspect of the 
right thigh AV graft. 

PROCEDURES:
===========
FISTULOGRAM w/ INTERVENTION:
1.  Pseudoaneurysm at arterial end of the graft treated with 
stent grafting. 
2.  Intra-graft stenosis at venous outflow end treated with 8 mm 
balloon. 
 
Brief Hospital Course:
___ year old male with ESRD presenting with expanding R thigh AV
graft pseudo-aneurysm without evidence of vascular compromise. 
The patient underwent balloon angioplasty for intra-graft 
stenosis at venous end of the AVF and covered stent graft 
placement for the pseudoaneurysm at the arterial end of the AVF 
with successful HD performed after the procedure without issues 
with AVF access.

ACUTE ISSUES:
===============
# ESRD (MWF)
# AVF fistula pseudo-aneurysm: US revealing 1.3 x 0.6 x 1.2 cm
pseudoaneurysm arising from the anterior aspect of the right
thigh AV graft. Skin changes and increasing size concerning for
risk of erosion through skin and hemorrhage. Most likely cause 
is
repeated access of same area ___ difficulty accessing most other
portions of the fistula. No evidence of vascular compromise 
otherwise, and AVF with good thrill. ___ and transplant surgery 
consulted. Patient underwent a fistulogram that showed 
intra-graft stenosis at venous end of the AVF and a 
pseudoaneurysm at the arterial end of the AVF. A 8 mm x 38 mm 
stent graft over the aneurysmal site, primarily to discourage 
the use of that site for dialysis access. Subsequently, 
angioplasty was performed along the length of the graft and 
outflow vein using a 8-mm balloon. A completion fistulogram was 
performed demonstrating brisk flow throughout the entire graft 
with no residual stenosis 
or pseudo-aneurysm. Clinical examination revealed a satisfactory 
thrill along the length of the graft. The patient underwent HD 
after the procedure without issues accessing the site.

CHRONIC ISSUES:
===============
# Sarcoidosis:
- Continue prednisone.

# HTN: 
- Continued labetalol and amlodipine.

TRANSITIONAL ISSUES:
====================
[ ] Patient noted to have a ___ systolic murmur heard best at 
the apex. No prior records of TTE's in the ___ charts. Please 
obtain a non-urgent TTE to evaluate for valvular disease.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 5 mg PO DAILY 
2. PredniSONE 5 mg PO DAILY 
3. sevelamer CARBONATE 800 mg PO TID W/MEALS 
4. Labetalol 200 mg PO BID 
5. Epoetin ___ ___ UNIT IV WITH HD 
6. Cinacalcet 90 mg PO BID 
7. Dialyvite (B complex ___ 
complex-vitamin C-folic acid) ___ mg-mg-mcg-mg oral 
unknown 
8. PrednisoLONE Acetate 1% Ophth. Susp. 1 DROP BOTH EYES BID 
9. Cyclopentolate 1% 1 DROP BOTH EYES Frequency is Unknown 

 
Discharge Medications:
1.  Cyclopentolate 1% 1 DROP BOTH EYES ASDIR  
2.  amLODIPine 5 mg PO DAILY  
3.  Cinacalcet 90 mg PO BID  
4.  Dialyvite (B complex ___ 
complex-vitamin C-folic acid) ___ mg-mg-mcg-mg oral 
unknown  
5.  Epoetin ___ ___ UNIT IV WITH HD  
6.  Labetalol 200 mg PO BID  
7.  PrednisoLONE Acetate 1% Ophth. Susp. 1 DROP BOTH EYES BID  
8.  PredniSONE 5 mg PO DAILY  
9.  sevelamer CARBONATE 800 mg PO TID W/MEALS  

 
Discharge Disposition:
Extended Care
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
- AVF Stenosis at venous end
- AVF Pseudoaneurysm at arterial end

SECONDARY DIAGNOSES:
- ESRD on HD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was pleasure taking care of you. You were admitted to the 
___ because you had swelling of 
your AV fistula which was discovered to be a pseudoaneurysm - a 
pouch of blood in the wall of the blood vessel. You underwent a 
procedure to fix this issue and you underwent hemodialysis 
without problems.

You are now able to go back to your facility. We wish you all 
the best! 

Your ___ Care Team
 
Followup Instructions:
___